US07186724B2
4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester.
A mixture of 4-(2-carboxy-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester (4.3 g, 11.1 mmol) and copper (705 mg, 11.1 mmol) in quinoline (28 mL) was heated at 200° C. for 45 minutes. Upon cooling to room temperature the mixture was diluted with EtOAc (50 mL) and filtered. The filtrate was washed with 5% HCl (2×20 mL), water (20 mL) and brine (20 mL), dried (MgSO4), filtered and evaporated. The residue was separated via chromatography (30% EtOAc in heptane) yielding 3.14 g (82%) of the desired product as a white solid.

reactant | 4-(2-carboxy-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester | 11.1 mmol, 4.3 g | COC(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)O)C=C(C=C2)C(F)(F)F | C17H16F3NO4S
solvent | quinoline | 28 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | copper | 11.1 mmol, 705 mg | [Cu] | Cu
product | 4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester | 3.14 g, 82% | COC(=O)N1CCC(CC1)C=1C2=C(SC1)C=C(C=C2)C(F)(F)F | C16H16F3NO2S
